US09034866B2
10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.1 g) was reacted with 2-methyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]propan-2-ol similar to as described in Example 5 and triturated from water followed by methanol to give 100 mg of 10-bromo-9-fluoro-3-[1-(2-hydroxy-2-methyl-propyl)pyrazol-4-yl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol via similar to as described in Procedure E to afford 18.1 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-3-[1-(2-hydroxy-2-methyl-propyl)pyrazol-4-yl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 468 (M)+. 1H NMR (400 MHz, DMSO) δ 8.62 (d, J=8.5 Hz, 1H), 8.08 (s, 1H), 7.75 (s, 1H), 7.57 (s, 1H), 7.08-6.91 (m, 2H), 5.50 (s, 1H), 4.68 (s, 1H), 4.54-4.45 (m, 2H), 4.41-4.29 (m, 2H), 4.07 (s, 2H), 1.50 (s, 6H), 1.10 (s, 6H).

reactant | 10-Bromo-9-fluoro-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.1 g | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
reactant | 2-methyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazol-1-yl]propan-2-ol | CC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)(C)O | C13H23BN2O3
product | 10-bromo-9-fluoro-3-[1-(2-hydroxy-2-methyl-propyl)pyrazol-4-yl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 100 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C=3C=NN(C3)CC(C)(C)O)C1)F | C19H19BrFN5O3
